* Generated current 12T 2W2R SRAM critical-path RC timing proxy.
* This intentionally uses extracted/scaled wire C and idealized drivers/current.
.param VDD=3.3
.param IREAD=10u

VWL_DRV wl_drv 0 PULSE(0 {VDD} 0.2n 50p 50p 10n 20n)
RWL wl_drv wl_far 46.8448
CWL wl_far 0 49.4646f

.ic v(bl_far)=3.3 v(wbl_far)=3.3
RBL bl_near bl_far 27.2736
CBL bl_far 0 158.494f
IREAD bl_far 0 PULSE(0 {IREAD} 1n 50p 50p 10n 20n)

VWRITE_DRV wdrv 0 PULSE(3.3 0 1n 50p 50p 10n 20n)
RWBL wdrv wbl_far 27.2736
CWBL wbl_far 0 158.494f

.tran 2p 20n uic
.meas tran wl50_ns WHEN v(wl_far)='VDD/2' RISE=1
.meas tran bl_150mv_ns WHEN v(bl_far)='3.15' FALL=1
.meas tran write_10pct_ns WHEN v(wbl_far)='0.1*VDD' FALL=1
.control
run
quit
.endc
.end
